US07635699B2
To a stirred solution of ethyl 6-((tert-butoxycarbonyl)methyl)-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidine-2-carboxylate (100 mg, 021 mmol) in THF (2 mL) and H2O (0.5 mL) at room temperature was added LiOH.H2O (18 mg, 0.42 mmol). After 16 h, the reaction was concentrated under reduced pressure and diluted with EtOAc. The organic layer was washed with 1N HCl and brine prior to drying over anhydrous MgSO4. Filtration, concentration under reduced pressure gave 6-((tert-butoxycarbonyl)methyl)-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidine-2-carboxylic acid (95 mg, 100%) as a light yellow solid.

reactant | ethyl 6-((tert-butoxycarbonyl)methyl)-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidine-2-carboxylate | 100 mg | C(C)(C)(C)OC(=O)CC=1C(=NC=2N(C1C1=C(C=C(C=C1)Cl)Cl)C=C(N2)C(=O)OCC)C | C22H23Cl2N3O4
reactant | LiOH.H2O | 0.42 mmol, 18 mg | O[Li].O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.5 mL | O | H2O
product | 6-((tert-butoxycarbonyl)methyl)-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidine-2-carboxylic acid | 95 mg, 100% | C(C)(C)(C)OC(=O)CC=1C(=NC=2N(C1C1=C(C=C(C=C1)Cl)Cl)C=C(N2)C(=O)O)C | C20H19Cl2N3O4
